US07705189B2
Study on Glutaraldehyde/Resorcinol Ratio
A cyclic CRA compound was synthesized in the same manner as in Example 1 except that 9 ml of N-methylpyrrolidone (NMP) was used as a solvent, 3.0 ml of hydrochloric acid was added, 20 mmol of resorcinol was used, and various amounts of glutaraldehyde (GA) was used. The results are shown in FIG. 2. The yield of the cyclic compound was confirmed to increase as the amount of GA decreases. The yield was maximum (73%) when the charge ratio was 0.2 (GA:resorcinol=1:5). When the charge ratio was 1.0 (GA:resorcinol=1:1), the product was gelatinized 10 minutes after the start of reaction.

reactant | hydrochloric acid | 3.0 ml | Cl | ClH
reactant | resorcinol | 20 mmol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | glutaraldehyde | C(CCCC=O)=O | C5H8O2
solvent | N-methylpyrrolidone | 9 ml | CN1C(CCC1)=O | C5H9NO
product | Glutaraldehyde Resorcinol | C(CCCC=O)=O.C1(O)=CC(O)=CC=C1 | InChI=1S/C6H6O2.C5H8O2/c7-5-2-1-3-6(8)4-5;6-4-2-1-3-5-7/h1-4,7-8H;4-5H,1-3H2
